* source PRE-AMP-DISCRET
.EXTERNAL OUTPUT INPUT
.EXTERNAL OUTPUT -15V
.EXTERNAL OUTPUT +15V
.EXTERNAL OUTPUT OUTPUT
R_R1         N15026 N14894  237 TC=0,0 
R_R2         N15026 N14890  237 TC=0,0 
R_R3         0 N14847  10k TC=0,0 
C_C1         N14836 N52800  2.2u  TC=0,0 
V_V1         0 N15026 15Vdc
V_V2         N15461 0 15Vdc
R_R4         N14925 N14929  187 TC=0,0 
R_R5         N14921 N14929  187 TC=0,0 
Q_Q6         N14929 N15435 N49560 BC860C 
R_R6         N49560 N15461  154 TC=0,0 
R_R7         0 N15435  12k TC=0,0 
V_V3         N14836 0  AC 1V
+SIN 0V 0.1V 1kHz 0 0 0
Q_Q7         0 N51262 N15214 BC850C 
Q_Q8         N15258 N15214 N51491 BC850C 
R_R8         N15026 N15214  1k TC=0,0 
Q_Q11         N15026 N15258 N15369 BC860C 
R_R9         0 N15624  10k TC=0,0 
R_R10         N15624 N15369  22k TC=0,0 
R_R11         N53475 N15461  40.2 TC=0,0 
R_R28         INPUT N48306  100k TC=0,0 
C_C11         N48306 0  1u  TC=0,0 
X_U15         N48306 N48500 +15V -15V OUTPUT OPA188
D_D4         -15V N48306 D1N4148_1 
C_C12         N48500 OUTPUT  1u  TC=0,0 
R_R29         0 N48500  100k TC=0,0 
D_D3         N48306 +15V D1N4148_1 
R_R30         N15369 INPUT  47 TC=0,0 
R_R23         0 INPUT  47k TC=0,0 
R_R31         0 OUTPUT  10k TC=0,0 
Q_Q12         N15435 N49560 N15461 BC860C 
R_R32         N15026 N51491  56 TC=0,0 
R_R33         N14847 N52800  470R TC=0,0 
C_C14         0 N14847  33p  TC=0,0 
Q_Q13         N53311 N53475 N15461 BC860C 
Q_Q14         N15369 N53311 N53475 BC860C 
R_R34         0 N53311  12k TC=0,0 
R_R35         N53764 N15461  76.8 TC=0,0 
Q_Q16         N15258 N53830 N53764 BC860C 
Q_Q15         N53830 N53764 N15461 BC860C 
R_R36         0 N53830  12k TC=0,0 
Q_Q17         N51258 N51258 N14908 BC850C 
Q_Q18         N51262 N51258 N14898 BC850C 
Q_Q19         N14898 N14898 N14894 BC850C 
Q_Q20         N14908 N14898 N14890 BC850C 
Q_Q21         N51258 N15624 N14921 BC860C 
Q_Q22         N51262 N14847 N14925 BC860C 
.IC         V(OUTPUT )=0
.IC         V(N48306 )=0
